US04000301
Preparation of 4-(p-Aminophenoxy)-1-methyl-3,5-diphenylpyrazole
Hydrazine hydrate (3 ml, 60% solution) is added to a well stirred mixture of 1-methyl-4-(p-nitrophenoxy)-3,5-diphenylpyrazole (2.56 g, 0.0069 mole), 5% Pd on carbon (0.4 g) and absolute ethanol (40 ml). Gas bubbles form immediately and an exotherm (ca. 50° C) is observed. After the reaction subsides, the reaction mixture is refluxed for 2 hours. The reaction mixture is cooled slightly and filtered to remove the catalyst. The filtrate is stripped in vacuo to give a white solid 2.4 g (100%), m.p. 167° to 169° C. Recrystallization from benzene (20 ml) affords a white solid, m.p. 167° to 168° C.

reactant | Hydrazine hydrate | 3 ml | O.NN
reactant | 1-methyl-4-(p-nitrophenoxy)-3,5-diphenylpyrazole | 0.0069 mole, 2.56 g | CN1N=C(C(=C1C1=CC=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C22H17N3O3
catalyst | Pd on carbon | 0.4 g | [Pd] | Pd
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-(p-Aminophenoxy)-1-methyl-3,5-diphenylpyrazole | 2.4 g, 100% | NC1=CC=C(OC=2C(=NN(C2C2=CC=CC=C2)C)C2=CC=CC=C2)C=C1 | C22H19N3O
